US09056858B2
Synthesis of 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(2-bromo-pyridin-4-yl)-cyclopropyl]-amide (11)
To a mixture of 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid (0.120 g, 0.467 mmol) in DMF (2 mL) is added HATU (186 mg, 0.490 mmol). After 30 minutes, N,N-diisopropylethylamine (325 μL, 1.87 mmol) and 1-(2-bromo-pyridin-4-yl)-cyclopropylamine-trifluoroacetic acid salt (223 mg, 0.507 mmol) are added, and the reaction mixture became homogeneous. After 18 hours, the mixture is concentrated in vacuo, reconstituted in ethyl acetate (50 mL) and washed with 1N sodium hydroxide (3×50 mL). The organic layer is washed with saturated aqueous ammonium chloride (2×50 mL), saturated aqueous sodium bicarbonate (50 mL), brine (50 mL), dried over MgSO4, filtered and concentrated in vacuo. The residue is twice purified by silica gel chromatography eluting with a gradient of 0-10% methanol in methylene chloride to afford the title compound as a solid.

reactant | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid | 0.467 mmol, 0.120 g | FC1=CC=C(C=C1)N1N=CC2=C1C=NC=C2C(=O)O | C13H8FN3O2
reactant | HATU | 0.490 mmol, 186 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.87 mmol, 325 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(2-bromo-pyridin-4-yl)-cyclopropylamine-trifluoroacetic acid salt | 0.507 mmol, 223 mg | FC(C(=O)O)(F)F.BrC1=NC=CC(=C1)C1(CC1)N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(2-bromo-pyridin-4-yl)-cyclopropyl]-amide | BrC1=NC=CC(=C1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F | C21H15BrFN5O
